US04026907
Reaction of tert-butyl-hydroquinone with methyl vinyl ketone by the procedure of Example 1 gave (±)-7-tert-butyl-6-hydroxy-2-methoxy-2-methylchroman as a white solid, m.p. 115°-117° from ether-30°-60° petroleum ether.

reactant | tert-butyl-hydroquinone | C(C)(C)(C)C1=C(O)C=CC(=C1)O | C10H14O2
reactant | methyl vinyl ketone | C(=C)C(=O)C | C4H6O
reactant | ether | CCOCC | C4H10O
product | (±)-7-tert-butyl-6-hydroxy-2-methoxy-2-methylchroman | C(C)(C)(C)C1=C(C=C2CCC(OC2=C1)(C)OC)O | C15H22O3
